US07544697B2
A mixture of hydrazine hydrate (6.40 g, 127 mmol) and 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile (9.15 g, 25.5 mmol) in ethanol (200 mL) was heated at reflux for 80 minutes, then was allowed to cool to ambient temperature in a water bath. A precipitate formed and was isolated by filtration and washed with cold ethanol. The filtrate was concentrated under reduced pressure, and the resulting white solid was twice treated with toluene and concentrated under reduced pressure then dried under vacuum to provide 5.74 g of 5-(2-aminoethyl)-4-bromo-1-methyl-1H-pyrazole-3-carbonitrile as an off-white solid.

reactant | hydrazine hydrate | 127 mmol, 6.40 g | O.NN
reactant | 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile | 25.5 mmol, 9.15 g | BrC=1C(=NN(C1CCN1C(C2=CC=CC=C2C1=O)=O)C)C#N | C15H11BrN4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-(2-aminoethyl)-4-bromo-1-methyl-1H-pyrazole-3-carbonitrile | 5.74 g | NCCC1=C(C(=NN1C)C#N)Br | C7H9BrN4
